US05155130
The starting material is prepared as follows: tert-Butyl N-hydroxycarbamate (3.89 g, 29.2 mmol) is dissolved in 25 ml of dichloromethane and cooled to 0° C. To this is added triethylamine (3.25 g, 32.1 mmol) and acetyl chloride (2.29 g, 29.2 mmol) dropwise. The mixture is extracted with ether and the extracts are washed with aqueous 2N HCl, water, 10% sodium bicarbonate, water, dried (MgSO4) and evaporated. The resulting colorless oil is purified by silica gel chromatography (10% ethyl acetate/hexane) to give O-acetyl-N-tert-butoxycarbonylhydroxylamine as a colorless oil.

reactant | tert-Butyl N-hydroxycarbamate | 29.2 mmol, 3.89 g | ONC(OC(C)(C)C)=O | C5H11NO3
reactant | triethylamine | 32.1 mmol, 3.25 g | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 29.2 mmol, 2.29 g | C(C)(=O)Cl | C2H3ClO
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
product | O-acetyl-N-tert-butoxycarbonylhydroxylamine | C(C)(=O)ONC(=O)OC(C)(C)C | C7H13NO4
